US04255434
The 4-chloro-1-[4-(4-chlorophenyl)-phenoxy]-3,3-dimethyl-1-(imidazol-1-yl)-butan-2-one naphthalene-1,5-disulphonate obtained according to Example 4 was neutralized with sodium bicarbonate solution. 4-Chloro-1-[4-(4-chlorophenyl)-phenoxy]-3,3-dimethyl-1-(imidazol-1yl)-butan-2-one of melting point 97°-99° C. was obtained quantitatively.

reactant | 4-chloro-1-[4-(4-chlorophenyl)-phenoxy]-3,3-dimethyl-1-(imidazol-1-yl)-butan-2-one naphthalene-1,5-disulphonate | C1(=CC=CC=2C(=CC=CC12)S(=O)(=O)O)S(=O)(=O)O.ClCC(C(C(N1C=NC=C1)OC1=CC=C(C=C1)C1=CC=C(C=C1)Cl)=O)(C)C
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 4-Chloro-1-[4-(4-chlorophenyl)-phenoxy]-3,3-dimethyl-1-(imidazol-1yl)-butan-2-one | ClCC(C(C(N1C=NC=C1)OC1=CC=C(C=C1)C1=CC=C(C=C1)Cl)=O)(C)C | C21H20Cl2N2O2
